US07659267B2
Methyl 2-(benzoylamino)-3-(3-cyanophenyl)propionate
A suspension of methyl 2-(benzoylamino)-3-(3-cyanophenyl)2-propenoate (300 mg, 0.979 mmol) and 5% palladium/barium sulfate (60 mg) in tetrahydrofuran (3 mL) was stirred at 50° C. for 7.5 hours under a hydrogen flow. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (3 mL) and 5% palladium/barium sulfate (90 mg) was added to the solution. The mixture was stirred at 50° C. for 8 hours under a hydrogen flow. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was crystallized from ethyl acetate-hexane to give the title compound (273 mg, 90%).

reactant | methyl 2-(benzoylamino)-3-(3-cyanophenyl)2-propenoate | 0.979 mmol, 300 mg | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)=CC1=CC(=CC=C1)C#N | C18H14N2O3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | palladium/barium sulfate | 60 mg | [Pd] | Pd
product | Methyl 2-(benzoylamino)-3-(3-cyanophenyl)propionate | 273 mg, 90% | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)CC1=CC(=CC=C1)C#N | C18H16N2O3
